US04035385
2100 Ml. of liquid ammonia is reacted with some crystalline ferric nitrate and subsequently with 10.4 g. of lithium metal over a 2-hour period. After stirring for 30 minutes, there are added 369 ml. of dimethylamino-1-propyne over a 40-minute period, and the reaction mixture is stirred for an additional 45 minutes. Over a 105-minute period, there is added dropwise a solution of 300 g. of 8-chloro-10,11-dihydro-5H-dibenzo[b,f]thiepin-10-one in 1500 ml. of tetrahydrofuran. The reaction mixture is allowed to stand overnight. The following morning, the reaction mixture is treated with 228 g. of ammonium chloride in 600 ml. of water. The ammonia, thereafter, is evaporated. 900 Ml. of tetrahydrofuran are added, and the mixture is heated at reflux for 2 hours. The reaction mixture is evaporated, diluted with water and extracted with ether. The ether extract is washed with water and extracted three times with aqueous methanesulfonic acid. The unreacted starting ketones can be recovered from the ethereal phase. The aqueous phase is made alkaline with concentrated sodium hydroxide, whereby there is obtained 10-[3-(dimethylamino)-1-propynyl]-8-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol, which is taken up in chloroform. The chloroform phase is washed with water, dried and evaporated, whereby there is obtained the above-named product, which after recrystallization from acetone, has a melting point of 150°-152°.

reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
reactant | dimethylamino-1-propyne | CN(C)C#CC | C5H9N
reactant | 8-chloro-10,11-dihydro-5H-dibenzo[b,f]thiepin-10-one | ClC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)=O)C1 | C14H9ClOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 10-[3-(dimethylamino)-1-propynyl]-8-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol | CN(CC#CC1(CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2)O)C | C19H18ClNOS
